US08877805B2
Step 3. Synthesis of 5-(2-tert-butoxycarbonylethyl)-furan-2-carboxylic acid (M-22)
5-(2-tert-Butoxycarbonylethenyl)furan-2-carboxylic acid benzyl ester (0.97 g, 2.80 mmol) was dissolved in methanol (50 mL), 10% palladium/carbon (0.1 g) was added, and the mixture was stirred at room temperature for 2 hours under a hydrogen atmosphere. After completion of the reaction, palladium/carbon was removed by celite filtration, and the solvent was evaporated under reduced pressure to give the title compound (0.66 g).

reactant | 5-(2-tert-Butoxycarbonylethenyl)furan-2-carboxylic acid benzyl ester | 2.80 mmol, 0.97 g | C(C1=CC=CC=C1)OC(=O)C=1OC(=CC1)C=CC(=O)OC(C)(C)C | C19H20O5
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium/carbon | 0.1 g | [Pd] | Pd
product | 5-(2-tert-butoxycarbonylethyl)-furan-2-carboxylic acid | 0.66 g | C(C)(C)(C)OC(=O)CCC1=CC=C(O1)C(=O)O | C12H16O5
